Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / Erythromycin Base / Streptomycin / Citric Acid / 
Atenolol / Torsemide / Heparin Agents
 
Attending: ___.
 
Chief Complaint:
Bleeding from colostomy and foley 

 
Major Surgical or Invasive Procedure:
none 
 
History of Present Illness:
___ year old male with multiple co-morbidities including rectal 
cancer s/p resection and radiation in ___ now with colostomy, 
coronary artery disease s/p stents, systolic CHF, dilated 
cardiomyopathy, atrial fibrillation not on coumadin, cardiac 
arrest and complete heart block s/p AICD/pacemaker, recent 
trach/peg after prolonged hospitalization for rib 
fractures/flail chest s/p fall who presents with large amount of 
bleeding from colostomy and Foley. The patient also endorsed 
increased shortness of breath, weakness and fatigue. The patient 
had been recently admitted ___ to the ___ MICU for 
pneumonia and MRSA bacteremia/sepsis and had been discharged on 
Vancomycin and baby aspirin (for his atrial fibrillation and 
coronary artery disease).
.
In the ___ ED, initial vital signs were: Afebrile, HR70, 
BP107/53, RR24, 91% on trach vent. Given his tender abdomen, 
there was initial concern for an intrabdominal event. 
ACS/General Surgery was consulted and CT abdomen/pelvis was 
performed. As the imaging was negative, there were no acute 
surgical concerns; ACS recommended tagged RBC if he continued to 
bleed. GI was also consulted and recommended two units pRBC for 
Hct 22, IV PPI initiation. The patient also underwent PEG lavage 
which was clear but was passing small amounts of maroon colored 
stools. There was also initial concern for DIC but labs not 
suggestive of this (the patient has history of heparin induced 
thrombocytopenia but platelets normal). The patient has had 
hematuria in the past, with three-way foley in place.  
.
Upon arrival to the MICU, the patient was resting comfortably in 
bed with trach/PEG, endorsing fatigue and abdominal pain. Per 
the patient's wife, the patient looked good on discharge two 
days ago but seemed under the weather on arrival to ___ 
___. When she saw him at 6pm yesterday evening, he was stable 
without signs of bleeding. 
.  
Review of systems:  
(+) Per HPI  
(-) Denies fever, headache, cough, shortness of breath, or 
wheezing. Denies chest pain, chest pressure, palpitations, or 
weakness. Denies nausea, vomiting. 

 
Past Medical History:
- Rectal cancer s/p excision and XRT (___)
- CAD s/p stents (?___)
- CVA in ___ with residual right hand dysthesia
- Complete heart block s/p pacemaker 
- h/o cardiac arrest (now with AICD) 
- GI bleed secondary to angiectasias in the duodenum (___) 
s/p cauterization via EGD 
- Atrial fibrillation
- Systolic CHF (EF 40-45%)  
- s/p Fall with multiple rib fractures (___)  
- MICU admission ___ for hemoptysis, bleeding from 
trach
- Abdominoperineal resection ___ w/ ___

 
Social History:
___
Family History:
Father died in ___ from ___. Mother died in ___ from PE. No 
family history of colon, breast, uterine, or ovarian cancer. No 
family history of seizures
 
Physical Exam:
ADMISSION:  
Vitals: T: 98.9 BP: 115/54 P: 71 R: 16 O2: 99%  (FiO2 35%, Tv 
450, RR12, PEEP5)
General: Alert, oriented, no acute distress, pale, breathing 
comfortably via trach  
HEENT: PERRL, pale conjunctiva, normocephalic, poor dentition, 
clear oropharynx   
Neck: Soft, supple, trach in place with minimal secretions  
Lungs: Mild rhonchi in all lung fields, no wheezing/rales; mild 
bibasilar crackels 
CV: Regular rate and rhythm, normal S1 + S2, no rubs or gallops, 
___ holosystolic murmur 
Abdomen: Soft, non-tender, non-distended, positive bowel sounds, 
no rebound tenderness or guarding, maroon streaked stool in 
colostomy 
GU: Three way foley with dark pink urine in collection bag
Ext: Warm, well perfused, +pulses, bilateral upper extremity 
edema, L>R; bilateral anterior shin hemosiderin changes
. 
DISCHARGE:
VS: 98.7 70 111/49 17 96% (Pressure Support 12, PEEP 5, FiO2 
35%)
General: Comfortable, no acute distress
HEENT: PERRL, EOMI, MMM, poor dentition
Cardiovascular: RRR, II/VI systolic murmur
Respiratory / Chest: CTA bilaterally, no wheezes/rales/ronchi
Abdominal: Soft, nontender/nondistended, naBS, ostomy c/d/i 
Extremities: WWP, 2+ lower extremity edema, 2+ upper extremity 
edema L>R (chronic), ___ pulses
Neurologic: Attentive, moving all extremities
 
Pertinent Results:
Blood Counts
___ 10:15PM BLOOD WBC-8.1 RBC-2.55* Hgb-7.3* Hct-22.4* 
MCV-88 MCH-28.7 MCHC-32.6 RDW-16.3* Plt ___
___ 01:56AM BLOOD WBC-8.0 RBC-3.06* Hgb-9.2*# Hct-26.3* 
MCV-86 MCH-29.9 MCHC-34.8 RDW-16.5* Plt ___
___ 04:39AM BLOOD WBC-6.9 RBC-3.06* Hgb-8.9* Hct-26.6* 
MCV-87 MCH-29.0 MCHC-33.5 RDW-16.6* Plt ___

Chemistry
___ 10:15PM BLOOD Glucose-108* UreaN-49* Creat-1.1 Na-139 
K-4.0 Cl-103 HCO3-29 AnGap-11

ABx 
___ 06:51AM BLOOD Vanco-24.2*
.
IMAGING:
___ CXR:
IMPRESSION: Blunting of the left costophrenic angle and left 
base opacities consistent with left pleural effusion with 
overlying atelectasis, underlying consolidation cannot be 
entirely excluded. Cardiomegaly and prominent right hilum again 
seen. Mild pulmonary vascular congestion, improved.
.
CT ABD and PELVIS:
1. Ascites is new since most recent exams dating back to ___, 
likely 
correlating with diffuse anasarca. 
2. Slight increase in size of 9-mm enhancing left liver lobe 
lesion which is incompletely characterized on this exam. This 
might be a flash filling 
hemangioma or focal nodular hyperplasia. No other acute 
intra-abdominal 
process. If more definitive characterization is desired, 
multiphasic CT of 
the liver could be considered. 
.
 
Brief Hospital Course:
HOSPITAL COURSE
___ M PMHx CAD s/p stenting, systolic CHF (EF40-45%), atrial 
fibrillation, recent hospitalization for MRSA bacteremia of 
respiratory source, who represented from ___ with hematuria and 
blood in colostomy bag, thought to be secondary to recent 
initiation of ASA, now resolved after holding ASA, 
hemodynamically stable x multiple days, being discharged to 
___.
.
ACTIVE
# Blood in Ostomy: Patient w/ history of UGIB secondary to 
angiectasias in the duodenum who presented w/ trace blood in his 
ostomy; patient remaining hemodynamically stable w/ PEG lavage 
negative; Trace blood in his colostomy bag suggests lower GI 
bleed; given temporal relationship to initiation of ASA, this 
was felt to most likely be an exacerbation of underlying issue; 
bleeding resolved with holding of ASA.  He received 2 units of 
pRBC on the day of admission.  His hemoglobin/hematocrit was 
thereafter stable.  Patient/family have declined scoping at this 
time but may be amenable to this as an outpatient (of note, 
colonoscopy in ___ was normal).  Continued patient's home 
omeprazole; held ASA (see below).  His cardiologist was notified 
because the patient is now no longer on aspirin or coumadin, but 
bleeding risk strongly outweighs stroke risk at this time.  
Patient will need to readdress issue of colonoscopy as an 
outpatient with outpatient providers.  Scheduled follow up with 
Dr. ___ on ___.  Please call Dr. ___ office to see if 
can get EGD sooner.
.
# Hematuria: Patient with a history of hematuria of uncertain 
etiology who presents w recurrence of bleeding, thought to be 
secondary recent initiation of ASA; holding of ASA resolved 
bleeding issue; patient will need to have outpatient follow-up 
with urology for discussion of cystoscopy; (appt was not yet 
scheduled).  PATIENT WITH FIRM FOLEY CATHETER WITH 30CC balloon. 
 Sending extra replacements with the patient.  Please be aware 
if removing.

.
# MRSA bacteremia: Pt w recent admission notable for MRSA 
bacteremia w/o TTE evidence of valvular involvement; continued 
vancomycin treatment course (last day is ___ level was 
supratherapeutic during this hospitalization; adjusted dosing to 
500mg BID.  Patient will need Vancomycin trough on morning of 
___ and adjust dose as necessary. 
.
# Chronic Diastolic CHF: Patient w EF 55-60% (___) 
appearing fluid overloaded on admission; restarted patient's 
home diuresis with good urine output.  Continued home 
carvedilol.  Continued to hold lisinopril (had been held during 
recent admission) given normotensive without.  Could consider 
restarting as outpatient if he became hypertensive.  
.
# Sacral decubitus ulcer: Stage IV, significant. Appropriate 
wound care.  Continued oxycodone, lidocaine. Patient became 
loopy receiving oxycodone 5mg Q4H.  Is written for ___ 
Q4H:PRN for pain, but will need to be assessed prior to 
medication to make sure not continuing to get loopy.  Please 
assess at ___ and continue to turn the patient regularly 
minimizing weight bearing to that area.
.
# Atrial fibrillation: CHADS4 but off 
anticoagulation/antiplatelet secondary to history of GI bleeds, 
hemothorax in ___. Given bleeding on this admission he will 
likely be a poor candidate for ASA in the future.  Alerted 
outpatient cardiologist Dr. ___ this issue.  He 
has follow up with Dr. ___ on ___ and we will contact him 
as well on the day of discharge.   
.
TRANSITIONAL
- PATIENT WITH FIRM FOLEY CATHETER WITH 30CC balloon.  Sending 
extra replacements with the patient.  Please be aware if 
removing.
- Scheduled for follow-up with cardiologist 
- Scheduled follow up with gastroenterologist, please call to 
see if can get EGD sooner than schedule appt.
- If has continued hematuria, will need urology follow up for 
cystoscopy.  
- Continue vancomycin for MRSA bactermia until ___, next 
traough needs to be morning of ___.  Goal level ___.  
- Wean off vent to trach mask, plan to diurese to dry weight to 
aid in weaning process
- Holding lisinopril given stable, BP, but can restart if 
becomes hypertensive.
 
Medications on Admission:
* Acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q4H PRN 
* Lidocaine 5 %(700 mg/patch) daily 
* Trazodone 25 mg Tablet qHS
* Citalopram 20 mg daily
* Docusate 10mL twice daily 
* Ferrous sulfate 300mg daily 
* Folic acid 1mg daily 
* Multivitamin daily 
* Omeprazole 20 mg daily 
* Albuterol inhaler 2 puffs q4 hours PRN 
* Simethicone 80mg three times daily 
* Miconazole nitrate 2% powder qHS 
* Oxycodone ___ q4 hours PRN 
* Aspirin 81mg daily 
* Lasix 40mg daily 
* Carvedilol 6.25mg twice daily 
* Vancomycin 750mg twice daily X 13 more days 
 
Discharge Medications:
1. acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q4H (every 
4 hours) as needed for pain.  
2. lidocaine 5 %(700 mg/patch) Adhesive Patch, Medicated Sig: 
One (1) Adhesive Patch, Medicated Topical DAILY (Daily): 12 
hours on and 12 hours off.  
3. trazodone 50 mg Tablet Sig: 0.5 Tablet PO HS (at bedtime) as 
needed for insomnia.  
4. citalopram 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
5. docusate sodium 50 mg/5 mL Liquid Sig: One (1)  PO BID (2 
times a day): Hold for loose stools.  
6. ferrous sulfate 300 mg (60 mg iron)/5 mL Liquid Sig: One (1)  
PO DAILY (Daily).  
7. folic acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

8. multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
9. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
10. albuterol sulfate 90 mcg/Actuation HFA Aerosol Inhaler Sig: 
Two (2) Puff Inhalation Q4H (every 4 hours) as needed for sob, 
wheeze.  
11. simethicone 80 mg Tablet, Chewable Sig: One (1) Tablet, 
Chewable PO TID (3 times a day).  
12. miconazole nitrate 2 % Powder Sig: One (1) Appl Topical HS 
(at bedtime).  
13. oxycodone 5 mg Tablet Sig: ___ Tablets PO Q4H (every 4 
hours) as needed for pain: PLease evaluate pt and hold for 
RR<12, sedation or if the patient appears loopy.  
14. Lasix 40 mg Tablet Sig: One (1) Tablet PO once a day.  
15. vancomycin 500 mg Recon Soln Sig: One (1) Recon Soln 
Intravenous Q 12H (Every 12 Hours) for 11 days: 500mg started on 
___, please get trough morning of ___.  
16. psyllium     Packet Sig: One (1) Packet PO TID (3 times a 
day) as needed for low ostomy output: low ostomy output.  
17. sucralfate 1 gram Tablet Sig: One (1) Tablet PO QID (4 times 
a day).  
18. carvedilol 6.25 mg Tablet Sig: One (1) Tablet PO BID (2 
times a day).  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis:
GI bleed
.
Secondary Diagnosis:
CAD
A-fib 
s/p cardiac arrest and AICD pacemaker

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
You are being dishcarged from ___ 
___.  You were re-admitted to the hospital for bleeding from 
your ostomy as well as your Foley catheter.  We felt this was 
because your aspiring was continued.  We held your aspirin, gave 
you one unit of blood and you have been doing well since.  You 
will go back to the ___ and will have follow up with GI and 
Cardiology for further management of these issues.

The following medication was STOPPED:
Aspirin 81mg Daily
.
Please continue to HOLD lisinopril 2.5mg PO Daily
Weigh yourself every morning, call MD if weight goes up more 
than 3 lbs.
 
Followup Instructions:
___